Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
HMED INITIAL NOTE

PCP:
Name: ___ 
___: ___ 
Address: ___ 
Phone: ___ 
Fax: ___ 

HPI:
Ms. ___ is a ___ yo F with h/o Roux en Y gastric bypass in 
___, migraines, s/p lap CCY in ___, who presented to OSH 
with acute onset epigastric pain x2 day.  The pain began with 
breakfast and then waxed/waned throughout the next ___ hrs.  The 
pain did not resolve on its own.  She also felt feverish.  She 
reports nausea with her pain but had no emesis as well.  She 
states that prior to this she felt well.  She denies any 
diarrhea or bloody BMs.  She denies any assoc CP, SOB, cough.

She presented to OSH St Lukes-> ___, where bili 1.4, AST 736, 
ALT 467.  CT scan with mild CBD dilation and 
choledocholithiasis.  Transvaginal US with adnexal cyst ? 
neoplasm.  She was seen by her surgeon there and decision made 
to xfer to ___ for ERCP.

ERCP with sphincteroplasty and extraction of multiple stones

On the floor she denies any pain.

10 point review of systems otherwise negative except as listed 
above
 
Past Medical History:
Roux-en-Y gastric bypass ___
Lap CCY ___
Migraine
___
Signet cell CA buccal mucosa
CCY
Panniculectomy
TKA
 
Social History:
___
Family History:
Reviewed and none pertinent to this hospitalization
 
Physical Exam:
Admission Physical Exam:
========================
VS: 97.9 PO 167 / 79 58 18 97 RA 
GEN: obese well appearing in NAD
HEENT: NC/AT. EOMI, anicteric sclera, MMM, OP clear
NECK: supple no LAD
CV: RRR no mrg
PULM: CTAB no wheeze or crackles
GI: soft, NT/ND +BS no rebound or guarding
GU: no Foley
EXT: warm well perfused no pitting edema
DERM: no rashes appreciated
PSYCH: pleasant

Discharge Physical Exam:
========================
VS: 99.0 137/61 66 18 94% RA
GEN: obese well appearing in NAD
HEENT: NC/AT. EOMI, anicteric sclera, MMM, OP clear
NECK: supple no LAD
CV: RRR no mrg
PULM: CTAB no wheeze or crackles
GI: soft, NT/ND +BS no rebound or guarding
GU: no Foley
EXT: warm well perfused no pitting edema
DERM: no rashes appreciated
PSYCH: pleasant
 
Pertinent Results:
OSH records reviewed in HPI.

TRANSVAGINAL US:
Large R adnexal cyst 11.4 cm, suspicious for cystic neoplasm

CT ABD:
Mild CBD dilatation with distal stones.  Adnexal cyst noted

ERCP:
Multiple filling defects in CBD.  s/p balloon sphincteroplasty 
with stone removal

Labs:
=====
___ 06:20AM BLOOD WBC-5.4 RBC-4.03 Hgb-10.3* Hct-34.0 
MCV-84 MCH-25.6* MCHC-30.3* RDW-17.2* RDWSD-53.4* Plt ___
___ 06:20AM BLOOD Glucose-94 UreaN-7 Creat-0.5 Na-145 K-4.1 
Cl-108 HCO3-24 AnGap-13
___ 06:20AM BLOOD ALT-215* AST-71* AlkPhos-161* TotBili-1.1
___ 06:20AM BLOOD Mg-1.8
 
Brief Hospital Course:
Ms. ___ is a ___ yo F s/p gastric bypass, recent CCY, who 
presented to ___ with acute epigastric pain and low 
grade fever and was found to have choledocholithiasis. She was 
transferred to ___ for ERCP.

# Bile obstruction with choledocholithiasis:
# Possible cholangitis:
# Acute epigastric pain with cholestasis/hepatitis and low grade 
fever.
She underwent ERCP, which was notable for multiple filling 
defects consistent with stones. Balloon sweep was performed with 
multiple stones removed. Also underwent sphincterotomy. She was 
kept NPO overnight on IV fluids. Diet was advanced on the 
morning after procedure, and at time of transfer she was 
tolerating a regular diet. She was started on ciprofloxacin for 
a planned five day course to cover for cholangitis, given her 
low grade fevers at time of presentation (last day ___.

# Adnexal Cyst:
Noted on transvaginal US at OSH and patient aware. Per ___ 
notes she will likely undergo further workup there as she does 
not have an outpatient gynecologist.

# Arthritis s/p TKA: continued home tramadol with Tylenol

Transitional Issues:
====================
- discharged on ciprofloxacin for a planned 5 day course, last 
day ___
- needs further workup of adnexal cyst (to be performed at 
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraMADol 50 mg PO BID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days  
2.  TraMADol 50 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were transferred here from ___ because your liver 
tests were abnormal. You were found to have multiple stones in 
your bile duct. These stones were removed during your ERCP 
procedure.

You are now being transferred back to ___ for further 
care. You were found to have a mass on your ovary. This will 
require further evaluation.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___